US08309580B2
(1) ethyl 2-methyl-5-phenyl-3-furancarboxylate
A suspension of 2-methyl-5-phenyl-3-furancarboxylic acid (5.0 g), ethyl iodide (4.7 g) and potassium carbonate (3.5 g) in N,N-dimethylformamide (50 mL) was stirred at room temperature for 4 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (5.7 g, 100%) as an oil.

reactant | 2-methyl-5-phenyl-3-furancarboxylic acid | 5.0 g | CC=1OC(=CC1C(=O)O)C1=CC=CC=C1 | C12H10O3
reactant | ethyl iodide | 4.7 g | C(C)I | C2H5I
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 2-methyl-5-phenyl-3-furancarboxylate | 5.7 g, 100% | CC=1OC(=CC1C(=O)OCC)C1=CC=CC=C1 | C14H14O3
